US05534535
(±)-(1R*, 2S*, 3S*, 5S*)-5-[5,6-Dichloro-2-(cyclobutylamino)-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol
(±)(1R*, 2S*, 3S*, 5S*)-3-(Acetoxymethyl)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (500 mg, 0.958 mmol) was dissolved in absolute ethanol (7 mL) and cyclobutylamine (0.41 mL, 4.8 mmol) was added. The solution was refluxed under nitrogen for 18 hours. Volatiles were evaporated and the residue stirred in methanol half-saturated with ammonia at 0° C. (20 mL) for 18 hours. Volatiles were removed in vacuo and the residue crystallized from ethanol-water to give title compound as white solid, m.p. 250° C. dec.; 1H-NMR(DMSO-d6)δ: 7.61 and 7.38 (both s, 1 each, aromatic CH), 7.07 (d, J=7.4 Hz, 1, NH), 5.15 (t, J=3.9 Hz, 1, OH), 4.81 (d, J=7.3 Hz, 1, OH), 4.71-4.45 (m overlapping d at 4.71, J=3.5 Hz, total 2, OH and NCH), 4.40-4.30 (m, 2. OCH and NCH), 3.82-3.80 (m, 1, OCH), 3.72-3.42 (both m, 1 each, OCH2), 2.32-1.67 (three m, 9, 4CH2 and CH); mass spectrum (CI): 386(M +1).

reactant | 3-(Acetoxymethyl)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 0.958 mmol, 500 mg | C(C)(=O)OC1C(C(CC1N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Br)COC(C)=O)OC(C)=O | C19H19BrCl2N2O6
reactant | cyclobutylamine | 4.8 mmol, 0.41 mL | C1(CCC1)N | C4H9N
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 5-[5,6-Dichloro-2-(cyclobutylamino)-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol | ClC1=CC2=C(N(C(=N2)NC2CCC2)C2CC(C(C2O)O)CO)C=C1Cl | C17H21Cl2N3O3
